US07582773B2
Step 5: Synthesis of 1,3-Dimethyl-2-phenyl-4-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile (0.311 g, 0.882 mmol) was reacted with NaN3 (0.287 g, 4.412 mmol) and NH4Cl (0.236 g, 4.412 mmol) in DMF (5 ml) to give the product (0.246 g, 0.622 mmol, 71%) as a white solid, dec. 208-210° C.

reactant | [4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile | 0.882 mmol, 0.311 g | CN1C(=C(C2=C(C=CC=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C24H20N2O
reactant | NaN3 | 4.412 mmol, 0.287 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 4.412 mmol, 0.236 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-Dimethyl-2-phenyl-4-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | CN1C(=C(C2=C(C=CC=C12)C1=CC=C(C=C1)OCC1=NN=NN1)C)C1=CC=CC=C1 | C24H21N5O
